US05120758
4-Phenoxyphenol (25.0 g, 134 mmol) is taken up in a mixture of pyridine (51 mL) and acetic anhydride (58 mL) and heated at reflux for 2 hours. The mixture is cooled and poured into 300 mL of water. The solution is made acidic with 2N hydrochloric acid and extracted three times with ether. The organic phase is washed with aqueous sodium bicarbonate solution, dried over magnesium sulfate and evaporated. Purification of the residue by silica-gel flash chromatography (4:1 hexane/ethyl acetate) gives 4-phenoxyphenyl acetate as a colorless solid.

reactant | 4-Phenoxyphenol | 134 mmol, 25.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | water | 300 mL | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | pyridine | 51 mL | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 58 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 4-phenoxyphenyl acetate | C(C)(=O)OC1=CC=C(C=C1)OC1=CC=CC=C1 | C14H12O3
